US08809342B2
Methyl 6-(1-(2,6-dimethyl-4′-(trifluoromethyl)biphenyl-4-ylamino)-3-methylbutyl)nicotinate (290 mg, 0.62 mmol) was dissolved in H2O (3 mL) and tetrahydrofuran (3 mL). The solution was cooled to 0° C. 1N LiOH (77.5 mg, 1.85 mmol) was added. The mixture was warmed to room temperature and stirred for 5 h. The mixture was then neutralized with 1N HCl and extracted with ethyl acetate. The organic layer was dried over sodium sulfate, filtered and concentrated. The residue was dissolved in N,N-dimethylformamide (5 mL). O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (338 mg, 0.888 mmol) was added and the mixture was stirred for 45 minutes. Methyl 3-aminopropanoate hydrochloride (123 mg, 0.888 mmol) and diisopropylethylamine (306 mg, 2.37 mmol) were added. The resulting mixture was stirred overnight at room temperature. The mixture was diluted with saturated ammonium chloride and extracted with ethyl acetate. The organic layer was washed with water and brine, dried over sodium sulfate, filtered and concentrated to give methyl 3-(6-(1-(2,6-dimethyl-4′-(trifluoromethyl)biphenyl-4-ylamino)-3-methylbutyl)nicotinamido)propanoate. 1H NMR (400 MHz, CD3OD, δ): 8.88 (s, 1H), 8.10 (m, 1H), 7.64 (m, 3H), 7.23 (d, 2H), 6.31 (s, 2H), 4.55 (m, 1H), 3.65 (m, 5H), 2.65 (m, 2H), 1.82 (m, 6H), 1.60 (m, 1H), 1.0 (m, 6H).

reactant | Methyl 6-(1-(2,6-dimethyl-4′-(trifluoromethyl)biphenyl-4-ylamino)-3-methylbutyl)nicotinate | 0.62 mmol, 290 mg | CC1=C(C(=CC(=C1)NC(CC(C)C)C1=NC=C(C(=O)OC)C=C1)C)C1=CC=C(C=C1)C(F)(F)F | C27H29F3N2O2
reactant | LiOH | 1.85 mmol, 1N, 77.5 mg | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.888 mmol, 338 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | Methyl 3-aminopropanoate hydrochloride | 0.888 mmol, 123 mg | Cl.NCCC(=O)OC
reactant | diisopropylethylamine | 2.37 mmol, 306 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | H2O | 3 mL | O | H2O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
product | methyl 3-(6-(1-(2,6-dimethyl-4′-(trifluoromethyl)biphenyl-4-ylamino)-3-methylbutyl)nicotinamido)propanoate | CC1=C(C(=CC(=C1)NC(CC(C)C)C1=NC=C(C(=O)NCCC(=O)OC)C=C1)C)C1=CC=C(C=C1)C(F)(F)F | C30H34F3N3O3
